US05360800
2,3,4,5-Tetrahydro-5-methyl-2-[(4-methyloxazol-5-yl)methyl]-1H-pyrido[4,3-b]-indol-1-one
Sodium hydride (60% dispersion in oil; 600 mg) was added to a stirred suspension of 2,3,4,5-tetrahydro-5-methyl-1H-pyrido[4,3-b]indol-1-one (1.5 g) in dry DME (150 ml) and then the mixture was stirred at 60° for 5 h under nitrogen. 5-Chloromethyl-4-methyloxazole (1.2 g) was added and the mixture was stirred overnight. A further quantity of sodium hydride (60% dispersion in oil; 600 mg) was added and the mixture was stirred at 60° for 4 h, then cautiously treated with water (100 ml). The mixture was extracted with dichloromethane containing methanol (ca. 1%) (3×100 ml) and the combined extracts were evaporated. The residue was purified by FCC eluting with System A (100:8:1) to give the title compound (300 mg) as a solid, t.l.c. (System A, 100:8:1) Rf 0.4.

reactant | Sodium hydride | 600 mg | [H-].[Na+]
reactant | 2,3,4,5-tetrahydro-5-methyl-1H-pyrido[4,3-b]indol-1-one | 1.5 g | CN1C2=C(C=3C=CC=CC13)C(NCC2)=O | C12H12N2O
reactant | 5-Chloromethyl-4-methyloxazole | 1.2 g | ClCC1=C(N=CO1)C | C5H6ClNO
reactant | sodium hydride | 600 mg | [H-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | DME | 150 ml | COCCOC | C4H10O2
product | 2,3,4,5-Tetrahydro-5-methyl-2-[(4-methyloxazol-5-yl)methyl]-1H-pyrido[4,3-b]-indol-1-one | 300 mg | CN1C2=C(C=3C=CC=CC13)C(N(CC2)CC2=C(N=CO2)C)=O | C17H17N3O2
